US05654307
Reaction of 5-[N-(tert-butoxycarbonyl)amino]-2-fluoropyridine (5.3 g, 25 mmol) sequentially with n-BuLi and CO2 as described in the following example gives 5-[N-(tert-butoxycarbonyl)amino]-2-fluoropyridine-4-carboxylic acid (1.60 g, 25%). 1H NMR (DMSO) δ 9.83 (1H, brs), 8.84 (1H, s), 7.49 (1H, d, J=2.9 Hz), 1.47 (9H, s).

reactant | 5-[N-(tert-butoxycarbonyl)amino]-2-fluoropyridine | 25 mmol, 5.3 g | C(C)(C)(C)OC(=O)NC=1C=CC(=NC1)F | C10H13FN2O2
reactant | n-BuLi | [Li]CCCC
reactant | CO2 | C(=O)=O | CO2
product | 5-[N-(tert-butoxycarbonyl)amino]-2-fluoropyridine-4-carboxylic acid | 1.60 g, 25% | C(C)(C)(C)OC(=O)NC=1C(=CC(=NC1)F)C(=O)O | C11H13FN2O4
